US07812028B2
To a dichloromethane (1 ml) solution of 6-(4-Fluoro-phenyl)-5-piperidin-1-yl-pyrazine-2-carboxylic acid (0.107 g, 0.358 mmol, 1.0 eq) was added oxalyl chloride (0.136 g, 1.07 mmol, 3.0 eq). The reaction was stirred at room temperature for 3 hours after which time the solvent was removed in vacuo. The residue was re-dissolved in dichloromethane (3 ml) and added portion-wise to a dichloromethane (1 ml) solution of aminoisobutyric acid methyl ester (0.066 g, 0.429 mmol, 1.2 eq). PS-N,N-diisopropyl-ethylamine (0.31 g, 1.04 mmol, 3.0 eq) resin was added to the reaction and the mixture stirred overnight at room temperature. PS-isocyanate (0.15 g, 0.358 mmol, 1.0 eq) and PS-aminomethyl (0.15 g, 0.358 mmol, 1.0 eq) resin were added to the reaction and the mixture stirred for a further 12 hrs at room temperature. The reaction was filtered and resin washed successfully with dichloromethane (2×3 ml). The combined filtrates were concentrated in vacuo and the residue purified by chromatography on silica gel with heptane:ethyl acetate (1:1) to afford 2-{[6-(4-fluoro-phenyl)-5-piperidin-1-yl-pyrazine-2-carbonyl]-amino}-2-methyl-propionic acid methyl ester. Yield=0.030 g (21%). HPLC-MS 100%; 2.52 min (MW=400; M+1=401.2).

reactant | 6-(4-Fluoro-phenyl)-5-piperidin-1-yl-pyrazine-2-carboxylic acid | 0.358 mmol, 0.107 g, 1.0 eq | FC1=CC=C(C=C1)C1=C(N=CC(=N1)C(=O)O)N1CCCCC1 | C16H16FN3O2
reactant | oxalyl chloride | 1.07 mmol, 0.136 g, 3.0 eq | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | aminoisobutyric acid methyl ester | 0.429 mmol, 0.066 g, 1.2 eq | COC(C(C)(C)N)=O | C5H11NO2
reactant | N,N-diisopropyl-ethylamine | 1.04 mmol, 0.31 g, 3.0 eq | C(C)(C)N(C(C)C)CC | C8H19N
reactant | isocyanate | 0.358 mmol, 0.15 g, 1.0 eq | [N-]=C=O
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | 2-{[6-(4-fluoro-phenyl)-5-piperidin-1-yl-pyrazine-2-carbonyl]-amino}-2-methyl-propionic acid methyl ester | COC(C(C)(C)NC(=O)C1=NC(=C(N=C1)N1CCCCC1)C1=CC=C(C=C1)F)=O | C21H25FN4O3
